US05641788
According to the same manner as that described in Example 4, 2-bromomethyl-4-(3,4-dimethoxyphenyl)-3-isovaleryl-6,7-dimethoxyquinoline was reacted with 2-mercapto-1-methylimidazole to give 4-(3,4-dimethoxyphenyl)-3-isovaleryl-6,7-dimethoxy-2-[(1-methylimidazol-2-yl)thiomethyl]quinoline. This compound was recrystallized from ethanol to give colorless prisms. mp. 152°-153° C.

reactant | 2-bromomethyl-4-(3,4-dimethoxyphenyl)-3-isovaleryl-6,7-dimethoxyquinoline | BrCC1=NC2=CC(=C(C=C2C(=C1C(CC(C)C)=O)C1=CC(=C(C=C1)OC)OC)OC)OC | C25H28BrNO5
reactant | 2-mercapto-1-methylimidazole | SC=1N(C=CN1)C | C4H6N2S
product | 4-(3,4-dimethoxyphenyl)-3-isovaleryl-6,7-dimethoxy-2-[(1-methylimidazol-2-yl)thiomethyl]quinoline | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CSC=1N(C=CN1)C)C(CC(C)C)=O | C29H33N3O5S
